US07851484B2
6-Chloro-7-methyl-1-(pentan-3-yl)-1H-imidazo[4,5-b]pyridin-2-ol.
To a room-temperature solution of 5-chloro-4-methyl-N3-(pentan-3-yl)pyridine-2,3-diamine (49 mg, 0.22 mmol, 1.0 equiv) in THF (10 mL) was added carbonyl diimidazole (211 mg, 1.3 mmol, 6.0 equiv) as a solid in one portion. The resulting mixture was heated to reflux overnight. After the reaction was cooled to room temperature, the excess carbonyl diimidazole was quenched by the careful addition of water. The mixture was then diluted with EtOAc, washed with saturated aq. NaHCO3, dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo. Purification by silica gel preparative thin layer chromatography (0.5% Et3N, 5% MeOH, 94.5% CH2Cl2) provided the title compound as a solid (10 mg, 22%). m/z=252.3 [M−H]−

reactant | 5-chloro-4-methyl-N3-(pentan-3-yl)pyridine-2,3-diamine | 0.22 mmol, 49 mg, 1.0 equiv | ClC=1C(=C(C(=NC1)N)NC(CC)CC)C | C11H18ClN3
reactant | carbonyl diimidazole | 1.3 mmol, 211 mg, 6.0 equiv | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 6-Chloro-7-methyl-1-(pentan-3-yl)-1H-imidazo[4,5-b]pyridin-2-ol | 10 mg, 22% | ClC=1C(=C2C(=NC1)N=C(N2C(CC)CC)O)C | C12H16ClN3O
